US04172141
1-[2-(1-naphthyl)-2-hydroxyethyl]imidazole (2.0 g.) and 5 ml. of thionyl chloride are stirred at room temperature for 30 minutes. Thereafter, the reaction mixture is evaporated to dryness and the residue treated with ethyl acetate and filtered to yield 1-[2-(1-naphthyl)-2-chloroethyl]imidazole hydrochloride as a white solid.

reactant | 1-[2-(1-naphthyl)-2-hydroxyethyl]imidazole | 2.0 g | C1(=CC=CC2=CC=CC=C12)C(CN1C=NC=C1)O | C15H14N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-[2-(1-naphthyl)-2-chloroethyl]imidazole hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)C(CN1C=NC=C1)Cl | InChI=1S/C15H13ClN2.ClH/c16-15(10-18-9-8-17-11-18)14-7-3-5-12-4-1-2-6-13(12)14;/h1-9,11,15H,10H2;1H
